US08084483B2
A solution of 5-bromo-4-(4-cyclopropylnaphthalen-1-yl)-4H-1,2,4-triazole-3-thiol (prepared as described above; 500 mg, 1.444 mmol) and tert-butyl 2-bromo-2-methylpropanoate (270 μL, 1.444 mmol) and diisopropylethylamine (755 μL, 4.332 mmol) in DMF (3 mL) was heated at 60° C. for 20 hours. The mixture was then concentrated, diethyl ether (15 mL) was added and the mixture was sonicated until all solids dissolved. The solution was then washed with HCl with (1N, 10 mL) and extracted with diethyl ether (2×15 mL). The combined organic extracts were dried over sodium sulfate, filtered, and concentrated to afford tert-butyl 2-(5-bromo-4-(4-cyclopropylnaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)-2-methylpropanoate as a light brown foam (532 mg, 75% yield).

reactant | 5-bromo-4-(4-cyclopropylnaphthalen-1-yl)-4H-1,2,4-triazole-3-thiol | 1.444 mmol, 500 mg | BrC=1N(C(=NN1)S)C1=CC=C(C2=CC=CC=C12)C1CC1 | C15H12BrN3S
reactant | tert-butyl 2-bromo-2-methylpropanoate | 1.444 mmol, 270 μL | BrC(C(=O)OC(C)(C)C)(C)C | C8H15BrO2
reactant | diisopropylethylamine | 4.332 mmol, 755 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | tert-butyl 2-(5-bromo-4-(4-cyclopropylnaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)-2-methylpropanoate | 532 mg, 75% yield | BrC=1N(C(=NN1)SC(C(=O)OC(C)(C)C)(C)C)C1=CC=C(C2=CC=CC=C12)C1CC1 | C23H26BrN3O2S
